US06437167B1
4-[(2-amino)cyclohexylamino]-2,5,6-trichloro-1,3-dicyanobenzene
To the slurry of 2,4,5,6-tetrachloro-1,3-dicyanobenzene (2.0 g, 7.5 mmol) in acetonitrile (40 ml) triethylamine (5.0 ml) is added, then 1,2-diaminocyclohexane (0.86 g, 7.5 mmol) and the reaction mixture is heated under reflux for 1 h. It is cooled to ambient temperature, then deposited on ice for few hours, and the crystalline product is collected on filter. 2.32 g (89%) of the title product as pale-yellow powder are obtained.

reactant | 2,4,5,6-tetrachloro-1,3-dicyanobenzene | 7.5 mmol, 2.0 g | ClC1=C(C(=C(C(=C1C#N)Cl)Cl)Cl)C#N | C8Cl4N2
reactant | 1,2-diaminocyclohexane | 7.5 mmol, 0.86 g | NC1C(CCCC1)N | C6H14N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-[(2-amino)cyclohexylamino]-2,5,6-trichloro-1,3-dicyanobenzene | 2.32 g, 89% | NC1C(CCCC1)NC1=C(C(=C(C(=C1Cl)Cl)C#N)Cl)C#N | C14H13Cl3N4
